US07589232B2
Step a) Formation of N-{4[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2,3-dihydro-1-benzofuran-5-carboxamide
The titled compound was prepared following the procedure J using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and 2,3-dihydro-1-benzofuran-5-carbonyl chloride as a colorless oil (92%). 1H NMR (CDCl3, 300 MHz) δ 7.66 (d, J=2.7 Hz, 1H), 7.44 (m, 4H), 7.34 (brs, 1H), 7.26 (d, J=8.3 Hz, 2H), 7.16 (d, J=8.0 Hz, 2H), 7.02 (m, 1H), 6.97 (dd, J=8.6, 2.7 Hz, 1H), 6.74 (d, J=8.6 Hz, 1H), 6.52 (d, J=8.3 Hz, 1H), 5.12 (s, 2H), 4.55 (t, J=8.9 Hz, 2H), 3.12 (t, J=8.9 Hz, 2H), 2.62 (t, J=7.8 Hz, 2H), 1.69 (s, 6H), 1.61 (m, 2H), 1.36 (m, 2H), 0.93 (t, J=7.4 Hz, 3H). M+ (ESI): 586.4. HPLC, Rt: 6.05 min (Purity: 100%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | 2,3-dihydro-1-benzofuran-5-carbonyl chloride | O1CCC2=C1C=CC(=C2)C(=O)Cl | C9H7ClO2
product | N-{4[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2,3-dihydro-1-benzofuran-5-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=CC3=C(CCO3)C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C38H35NO5
